Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
renal ultrasound (normal)

 
History of Present Illness:
This is a ___ F with asthma, IDDM, HTN, HLD and chronic back pain
presenting with cough x4 days and back pain since yesterday.
Cough has been ongoing for three weeks without improvement. No
SOB or chest pain. Her back pain is related to a mechanical fall
in her bathroom 2 days ago.

No sore throat. No vomiting. No abdominal pain. 

Complaining of throbbing headache over her left forehead and 
eye.

Reports urinary frequency of unclear duration, no dysuria. 

In the ED, vitals T 98.2 BP 112/69 HR 102 RR 18 O2 100%RA
Labs notable for WBC 3.1 (baseline ~4), HGB 10.3 PLT 64, bicarb
20, lactate 4.0, UA grossly positive. 
CXR unremarkable.
Given 2L NS and ceftriaxone. 

 
Past Medical History:
PMH: Chronic Back Pain, Asthma, DM, Hyperlipidemia, HTN, 
migraine, elevated BMI, OA, rosacea, OSA, Followed by 
Psychiatry, diverticulosis

PSH: History of 11 prior abdominal procedures including ovarian 
procedure, bowel perforation, Hysterectomy, Ovaryiectomy 
w/single remaining ovary
 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:  
T98.4 104/60  P78  R18  94% on RA
General:  no acute distress, brightly dyed hair, animated, 
alert, and oriented
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, + CVA tenderness 
bilaterally (mild)
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Hematology 
  COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD 
Plt Ct 
___ 08:15    3.0* 3.41* 9.8* 30.9* 91 28.7 31.7* 14.7 
49.3* 62* 
___ 07:01    3.0* 3.39* 9.7* 30.8* 91 28.6 31.5* 14.8 
49.7* 66* 
___ 14:05    3.1* 3.55* 10.3* 32.4* 91 29.0 31.8* 15.1 
50.1* 64* 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 14:05    51.7   36.7 10.1 0.6* 0.3     0.6 1.59* 
1.13* 0.31 0.02* 0.01 
  BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 08:15    62* 
___ 07:01    66* 
___ 14:05    64* 
 

Chemistry 
  RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 08:15    ___ 135 4.5 ___ 
___ 07:01    ___ 141 4.6 ___ 
___ 14:05    169*1 23* 1.2* 139 4.9 106 20* 18 
 
Hematology 
 GENERAL URINE INFORMATION Type Color ___ 
___ ___      Yellow Hazy 1.028 
 DIPSTICK URINALYSIS Blood Nitrite Protein Glucose Ketone 
Bilirub Urobiln pH Leuks 
___ 16:04    NEG NEG 30 NEG NEG NEG 8* 6.5 LG 
 MICROSCOPIC URINE EXAMINATION RBC WBC Bacteri Yeast Epi TransE 
RenalEp 
___ 16:04    0 40* MANY NONE 3     
 URINE CASTS CastHy 
___ 16:04    1* 
 OTHER URINE FINDINGS Mucous 
___ 16:04    RARE 
 
___ 16:04    

Urine culture
                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
 
Brief Hospital Course:
Ms. ___ is a ___ woman with asthma, chronic 
thrombocytopenia, DM type 2, HTN, HLD and chronic back pain who 
presente with cough x4 days, dysuria, and back pain since the 
day prior to admission, found to have a positive UA concerning 
for pyelo in the setting of her back pain. She was started on 
ceftriaxone which was transitioned to PO cipro according to 
sensitivities. A renal ultrasound was done which showed no 
obstruction or stone and normal kidneys. She was toleratined PO 
intake well and pain was improved. She ambulated the hallways 
well. Her labs were also notable for stable thrombocytopenia for 
which she will continue her outpatient follow up with hematology 
which was arranged for her. Rest of hospital course/plan are 
outlined by issue below. 

#UTI/pyelonephritis: prior urine has grown pansensitive e coli 
in the past (except R to Bactrim) and grew the same this time as 
well (pansensitive except for Bactrim)
-ceftriaxone started (___) and changed to PO cipro on ___ just 
prior to discharge for a course x total 10 days for pyelo (last 
day ___, transitioned to PO cipro for good tissue penetration. 
She was instructed to hold tizanidine while taking this as it 
may interact with cytochromes and also instructed to watch her 
blood sugars closely as quinolones may exacerbate hypoglycemia. 

#Back pain: choric, exacerbated by UTI. PRN Tylenol for pain 
control

#Cough has been ongoing for three weeks without improvement. 
Relates mild URI symptoms, likely post-viral syndrome. Lung exam 
was benign and symptoms had improved. CXR was negative for 
infiltrate.  F/u with PCP if not improved. ddx post nasal drip 
vs asthma vs GERD

#Thrombocytopenia: Plts downtrending over past year. Near her 
baseline around 80 without signs of bleeding. Followed by Heme 
Dr. ___, MD who has previously suggested  etiology is ITP vs. 
MDS vs. progressive chronic liver disease. will follow up with 
heme as outpt as below.   

#Cough

#DM
-hold PO antihyperglycemics
-insulin sliding scale

#Transitional: 
-f/u with Heme Dr. ___, MD was arranged prior to discharge as 
well as PCP follow up. 
-___ day of antibiotics ___
-Patient doesn't seem to fully understand her extensive 
medication list, recommended eval for home services and med rec

spent > 30 minutes seeing patient and organizing discharge. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 1000 mg PO Q8H:PRN pain  
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
3. Cetirizine 10 mg PO DAILY 
4. ClonazePAM 1 mg PO BID 
5. DiCYCLOmine 10 mg PO BID 
6. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation  
7. Fluoxetine 40 mg PO DAILY 
8. Gabapentin 600 mg PO TID 
9. Montelukast 10 mg PO DAILY 
10. Omeprazole 20 mg PO BID 
11. Simvastatin 10 mg PO QPM 
12. Tizanidine 2 mg PO TID:PRN muscle spasms  
13. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
14. Flovent HFA (fluticasone) 220 mcg/actuation 2 puffs BID 
15. fluticasone 50 mcg/actuation NASAL DAILY 
16. Furosemide 20 mg PO ONCE 
17. GlipiZIDE XL 10 mg PO BID 
18. Januvia (sitaGLIPtin) 100 mg oral DAILY 
19. Ketoconazole Shampoo 1 Appl TP ASDIR 
20. MetFORMIN (Glucophage) 1000 mg PO DAILY 
21. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
22. QUEtiapine Fumarate 200 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain  
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
4. Cetirizine 10 mg PO DAILY 
5. ClonazePAM 1 mg PO BID 
6. DiCYCLOmine 10 mg PO BID 
7. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation  
8. Flovent HFA (fluticasone) 220 mcg/actuation 2 puffs BID 
9. Fluoxetine 40 mg PO DAILY 
10. fluticasone 50 mcg/actuation NASAL DAILY 
11. Gabapentin 600 mg PO TID 
12. Montelukast 10 mg PO DAILY 
13. Omeprazole 20 mg PO BID 
14. QUEtiapine Fumarate 200 mg PO QHS 
15. Simvastatin 10 mg PO QPM 
16. Furosemide 20 mg PO ONCE 
17. GlipiZIDE XL 10 mg PO BID 
18. Januvia (sitaGLIPtin) 100 mg oral DAILY 
19. Ketoconazole Shampoo 1 Appl TP ASDIR 
20. MetFORMIN (Glucophage) 1000 mg PO DAILY 
21. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
22. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth two 
times a day Disp #*18 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were diagnosed with pyelonephritis and you will be 
discharged on an antibiotic called cipro. You should take the 
cipro two times a day until the last day which will be on 
___. 

The cipro interacts with tizanidine so you should stop taking 
tizanidine while you are on cipro. 

Also, check your blood sugars every day as the cipro can also 
lower your blood sugars. If they are low, call your doctor 
immediately. 

 
Followup Instructions:
___